US05550233
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-triethylsilyloxy-4"-[but-3-en-1-yl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-4"-[but-3-en-1-yl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (0.9 gm, 0.94 mmol) in CH2Cl2 (25 ml) at room temperature was added 2,6-lutidine (0.33 mL) followed by triethylsilyltriflate (0.52 mL, 2.3 mmole) and the reaction mixture was stirred at room temperature. The reaction progress was monitored by TLC (silica, 20% acetone:hexanes). After 1 hr, the reaction was diluted with CH3OH and partitioned between diethyl ether and H2O. The organic layer was washed successively with 1N H2SO4, H2O, NaHSO3 and brine solutions. The organic fraction was then dried over MgSO4, filtered and concentrated in vacuo to give the title compound (1.47 gm). MASS: (FAB) 1080 (M+ + Li).

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-4"-[but-3-en-1-yl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.94 mmol, 0.9 gm | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)(CCC=C)O)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C53H89NO12Si
reactant | 2,6-lutidine | 0.33 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | triethylsilyltriflate | 2.3 mmole, 0.52 mL | C(C)[Si](CC)(CC)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | acetone | CC(=O)C | C3H6O
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH3OH | CO | CH4O
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-triethylsilyloxy-4"-[but-3-en-1-yl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 1.47 gm | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)(CCC=C)O[Si](CC)(CC)CC)OC)C)C)(O[Si](C)(C)C(C)(C)C)O)=O | C59H103NO13Si2
